* C:\Users\gonza\Desktop\TPProfresional\TProfesional_EEG\LTSpice_projects\Atenuador.asc
V§Salida_DAC N004 0 PWL file=C:\Users\gonza\Downloads\asd.txt AC 5
Vref N003 0 5
XU1 N004 N001 5V -5V N002 AD820
R2 N003 N001 10k
R4 N002 N001 10k
V1 5V 0 5
V4 0 -5V 5
R3 N002 N006 500k
R5 N006 N007 10
XU2 N006 N005 5V -5V N005 AD820
XX1 NC_01 5V -5V NC_02 bandpassfilter
R1 N005 N008 5Meg
R6 N007 0 500k
XU3 N007 N008 5V -5V N008 AD820

* block symbol definitions
.subckt bandpassfilter Input +V -V Output
XU1 N004 N002 +V -V N002 LT1112
XU2 N005 Output +V -V Output LT1112
R2 N005 N003 138k
R3 N003 N002 7.7k
C1 N005 0 11n
C3 Output N003 110n
R1 N004 0 315k
R4 N002 N001 158k
C2 N004 N001 10µ
C4 N001 Input 10µ
.ends bandpassfilter

* .ac dec 1000 0.01 1k
* Regulador
* DAC AD5308
* Rail to rail
* Atenuador
* .noise V(Vout) Salida_DAC dec 1000 0.01 1k
.tran 9
.lib ADI1.lib
.lib LTC.lib
.backanno
.end
